US04533688
(b) 2-Chloro-4,6-bis[N-(2-ethylhexyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine
A suspension of 9.2 g of cyanuric chloride in 60 ml of acetone and 20 ml of water was added dropwise, with stirring, at 20°-25° C. to a solution of 29.5 g of 4-(2-ethylhexylamino)-2,2,6,6-tetramethylpiperidine in 50 ml of acetone, after which a solution of 4.2 g of sodium hydroxide in 20 ml of water was added to the mixture. The resulting reaction mixture was then stirred for 4 hours at 45°-50° C. At the end of this time, the acetone was distilled off and the oily residue was extracted with ethyl acetate. The extract was dried over anhydrous potassium carbonate, and the ethyl acetate was distilled off. The resulting oil was purified by column chromatography through silica gel, eluted with a 4:1 by volume mixture of hexane and ethyl acetate, to give the title compound as a colourless oil. The Rf value of this compound on thin layer chromatography was 0.62, using silica gel and using, as developing solvent, a 4:1:0.4 by volume mixture of ethyl acetate, methanol and triethylamine.

reactant | cyanuric chloride | 9.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-(2-ethylhexylamino)-2,2,6,6-tetramethylpiperidine | 29.5 g | C(C)C(CNC1CC(NC(C1)(C)C)(C)C)CCCC | C17H36N2
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 2-Chloro-4,6-bis[N-(2-ethylhexyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine | ClC1=NC(=NC(=N1)N(C1CC(NC(C1)(C)C)(C)C)CC(CCCC)CC)N(CC(CCCC)CC)C1CC(NC(C1)(C)C)(C)C | C37H70ClN7
